US09056874B2
a) (±)-2-(1-(5-(Difluoromethoxy)-7-methyl-1H-indol-4-yl)-1-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of a mixture of (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-hydroxyethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-hydroxyethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate (310 mg, 0.504 mmol) in THF (5 mL) at room temperature, ethylenediamine (0.34 mL, 5.04 mmol) was added followed by TBAF (1M in THF, 5.04 mL, 5.04 mmol) and the reaction was stirred at 60° C. After 2 days the reaction was cooled to room temperature, quenched with sat. aq. WWI and extracted with EtOAc. The organic layers were combined, dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-100% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.51 (s, 1H) 11.12 (br. s., 1H) 8.06 (m) 7.81 (m) 7.65-7.74 (m) 7.46-7.56 (m) 7.29 (t, J=2.78 Hz, 1H) 6.72 (br. s., 1H) 6.68 (s, 1H) 6.65 (t, J=75.8 Hz, 1H) 6.22 (s, 1H) 2.45 (s, 3H) 2.09 (s, 3H). HRMS calcd. for C20H16F2N4O2 (M+H)+ 383.1314. found 383.1321.

reactant | (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-hydroxyethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C)(O)C2=C3C=CN(C3=C(C=C2OC(F)F)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1 | C31H38F2N4O5Si
reactant | (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-hydroxyethyl)-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate | 0.504 mmol, 310 mg | C(#N)C=1C=CC2=C(N(C(=N2)C(C)(O)C2=C3C=CN(C3=C(C=C2OC(F)F)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C1 | C31H38F2N4O5Si
reactant | ethylenediamine | 5.04 mmol, 0.34 mL | C(CN)N | C2H8N2
reactant | TBAF | 5.04 mmol, 1M, 5.04 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (±)-2-(1-(5-(Difluoromethoxy)-7-methyl-1H-indol-4-yl)-1-hydroxyethyl)-1H-benzo[d]imidazole-5-carbonitrile | FC(OC=1C(=C2C=CNC2=C(C1)C)C(C)(O)C1=NC2=C(N1)C=CC(=C2)C#N)F | C20H16F2N4O2
